US07683064B2
A solution of 5-Bromo-1-methyl-3-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-1H-pyridin-2-one (19 mg, 0.050 mmol), 7-tert-Butyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-quinolin-4-one (20 mg, 0.05 mmol), tetrakis(triphenylphosphine)palladium(0) (6.0 mg, 0.0052 mmol), and sodium carbonate (16 mg, 0.15 mmol) in 2 mL 1,2-dimethoxyethane and 1 mL water was microwaved at 170° C. for 12.5 minutes. The resulting mixture was partitioned between ethyl acetate and water. The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, concentrated in vacuo, and purified by preparative TLC (5% methanol/dichloromethane) to yield 7-tert-Butyl-3-(3-{1-methyl-5-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-6-oxo-1,6-dihydro-pyridin-3-yl}-phenyl)-1H-quinolin-4-one (5.7 mg, 0.0085 mmol). MS (ESI) 590.1 (M+H)+.

reactant | 5-Bromo-1-methyl-3-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-1H-pyridin-2-one | 0.050 mmol, 19 mg | BrC=1C=C(C(N(C1)C)=O)NC1=NC=C(C=C1)C(=O)N1CCOCC1 | C16H17BrN4O3
reactant | 7-tert-Butyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-quinolin-4-one | 0.05 mmol, 20 mg | C(C)(C)(C)C1=CC=C2C(C(=CNC2=C1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C25H30BNO3
reactant | sodium carbonate | 0.15 mmol, 16 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 2 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0052 mmol, 6.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-tert-Butyl-3-(3-{1-methyl-5-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-6-oxo-1,6-dihydro-pyridin-3-yl}-phenyl)-1H-quinolin-4-one | 0.0085 mmol, 5.7 mg | C(C)(C)(C)C1=CC=C2C(C(=CNC2=C1)C1=CC(=CC=C1)C1=CN(C(C(=C1)NC1=NC=C(C=C1)C(=O)N1CCOCC1)=O)C)=O | C35H35N5O4
